US04195029
A process according to claim 1, wherein tin dichloride is reacted with acrylonitrile, n-butanol, water and hydrogen chloride to give β-n-butoxycarbonylethyl tin trichloride.

reactant | tin dichloride | [Sn](Cl)Cl
reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | n-butanol | C(CCC)O | C4H10O
reactant | hydrogen chloride | Cl | ClH
reactant | water | O | H2O
product | β-n-butoxycarbonylethyl tin trichloride | C(CCC)OC(=O)CC[Sn](Cl)(Cl)Cl | InChI=1S/C7H13O2.3ClH.Sn/c1-3-5-6-9-7(8)4-2;;;;/h2-6H2,1H3;3*1H;/q;;;;+3/p-3
